US06211215B1
In substantially the same manner as in Working Example 72, 1-[4-(4-hydroxyphenyl)butyl]imidazole was reacted with 4-chloromethyl-2-(5-methyl-2-thienyl)thiazole to obtain 4-[4-[4-(1-imidazolyl)butyl]phenoxymethyl]-2-(5-methyl-2-thienyl)thiazole. The yield was 74%. Recrystallization from ethyl acetate-hexane gave pale yellow needles, mp 81-82° C.

reactant | 1-[4-(4-hydroxyphenyl)butyl]imidazole | OC1=CC=C(C=C1)CCCCN1C=NC=C1 | C13H16N2O
reactant | 4-chloromethyl-2-(5-methyl-2-thienyl)thiazole | ClCC=1N=C(SC1)C=1SC(=CC1)C | C9H8ClNS2
product | 4-[4-[4-(1-imidazolyl)butyl]phenoxymethyl]-2-(5-methyl-2-thienyl)thiazole | yield was 74% | N1(C=NC=C1)CCCCC1=CC=C(OCC=2N=C(SC2)C=2SC(=CC2)C)C=C1 | C22H23N3OS2
